US05574173
Dissolved N-methyl-2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-amine (0.50 g, 2.08 mmol) in 15 mL of absolute ethanol. Added 10 mg of 10% palladium on carbon catalyst, and stirred under atmospheric hydrogen balloon for 16 hours. Filtered through Celite, and washed with ethanol. Evaporated filtrate. Purified crude product by flash chromatography on silica gel eluting with 5% MeOH--CH2Cl2. Combined appropriate fractions, and evaporated to give 0.43 g (86% yield) of N-methyl-2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pentanamine. Dissolved free base in ethyl acetate, and added one equivalent of maleic acid dissolved in absolute ethanol. Evaporated to foamy glass.

reactant | N-methyl-2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pent-4-en-1-amine | 2.08 mmol, 0.50 g | CNCC(CC=C)C1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C20H23NO
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | N-methyl-2-[6,11-dihydro-dibenzo[b,e]oxepin-11-yl]-pentanamine | 0.43 g, 86% yield | CNCC(CCC)C1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C20H25NO
